US06479524B1
d. E-N-[4-bromo-2-(2-ethoxycarbonyl-vinyl)-benzoyl]-pyrrolidine
A solution of 1.27 g (4.5 mmol) of N-(4-bromo-2-formyl-benzoyl)-pyrrolidine and 1.65 g (4.5 mmol) of carboethoxymethylene triphenylphosphorane in 45 ml of toluene is heated to 80° C. for 4 hours. After removal of the solvent the residue is purified by flash chromatography (silica gel; methylene chloride/ethanol 99:1 to 99:2).

reactant | N-(4-bromo-2-formyl-benzoyl)-pyrrolidine | 4.5 mmol, 1.27 g | BrC1=CC(=C(C(=O)N2CCCC2)C=C1)C=O | C12H12BrNO2
reactant | carboethoxymethylene triphenylphosphorane | 4.5 mmol, 1.65 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | toluene | 45 ml | C1(=CC=CC=C1)C | C7H8
product | E-N-[4-bromo-2-(2-ethoxycarbonyl-vinyl)-benzoyl]-pyrrolidine | BrC1=CC(=C(C(=O)N2CCCC2)C=C1)\C=C\C(=O)OCC | C16H18BrNO3
